US05709911
First, 10.9 g of 1-[trans-4-{13-benzyloxy-1-tridecenyl}cyclohexyl]-2,3-difluorobenzene, 1 g of 10% Pd--C, 50 ml of ethanol, and 50 ml of ethyl acetate were placed in a 500 ml autoclave. The mixture was stirred at room temperature for 5 days under a hydrogen pressure of 8 kg/cm2. A catalyst was filtered away and a filtrate was concentrated. Thereafter, the residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=4/1) and recrystallized from acetone to obtain 5.7 g of 1-[trans-4-(13-hydroxytridecyl)cyclohexyl]-2,3-difluorobenzene (Y: 64%). The compound thus obtained had a purity of 97.2% by GC and 99.8% by HPLC.

reactant | 1-[trans-4-{13-benzyloxy-1-tridecenyl}cyclohexyl]-2,3-difluorobenzene | 10.9 g | C(C1=CC=CC=C1)OCCCCCCCCCCCC=C[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C32H44F2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-[trans-4-(13-hydroxytridecyl)cyclohexyl]-2,3-difluorobenzene | 5.7 g, 64% | OCCCCCCCCCCCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C25H40F2O
